US07981903B2
In a pressure vessel was placed a solution of 1-(1-methylethyl)-4-[3-(methyloxy)-4-nitrophenyl]piperazine (4.0 g, 14.3 mmol) in EtOH (100 mL). The solution was purged with N2 for 15 min before the addition of 10% Pd/C (0.5 g). The reaction was stirred at RT for 5 h under 60 psi H2. After releasing H2 pressure, filtration removed the solid resin, and the filtrate was concentrated and purified with silica gel chromatography (0-5% 2 M NH3 in MeOH/DCM) to furnish 4-[4-(1-methylethyl)-1-piperazinyl]-2-(methyloxy)aniline (3.6 g, 99% yield). 1H NMR (400 MHz, CDCl3) δ ppm 1.09 (d, J=6.6 Hz, 6 H), 2.66-2.75 (m, 5 H), 3.05-3.10 (m, 4 H), 3.47 (s, 3 H), 3.83 (s, 2 H), 6.42 (dd, J=8.2, 2.4 Hz, 1 H), 6.52 (d, J=2.2 Hz, 1 H), 6.64 (d, J=8.4 Hz, 1 H).

reactant | 1-(1-methylethyl)-4-[3-(methyloxy)-4-nitrophenyl]piperazine | 14.3 mmol, 4.0 g | CC(C)N1CCN(CC1)C1=CC(=C(C=C1)[N+](=O)[O-])OC | C14H21N3O3
solvent | EtOH | 100 mL | CCO | C2H6O
product | 4-[4-(1-methylethyl)-1-piperazinyl]-2-(methyloxy)aniline | 3.6 g, 99% yield | CC(C)N1CCN(CC1)C1=CC(=C(N)C=C1)OC | C14H23N3O
